US06111084
Synthesis of 4-Hydroxymethylbenzaldehyd dimethylacetal (7) as shown in FIG. 4
To a suspension of 4-carboxybenzaldehyde (7.51 g, 50 mmol) in dry MeOH (40 ml) was added 8 ml (65 mmol) of 2,2-dimethoxypropane and a catalytic amount of p-TsOH.H2O (190 mg, 1 mmol). The suspension cleared, then a colorless precipitate appeared (5 ml of dry MEOH added) and the thick suspension was stirred over night, before 100 mg of NaHCO5 were added and the mixture was concentrated in vacuo. The residue was tho roughly dried at high vacuum, dissolved in dry THF (50 ml) and added dropwise to an ice cooled slurry of LiAlH4 (1.71 g, 45 mmol) in 40 ml of dry THF. After the addition was complete (30 min), the cooling bath was removed and stirring was continued for 5 h, before the reaction mixture was treated with 1N HCl till Al-salts have precipitated (pH 9-10). The organic layer was decanted and the remaining salts were washed several times with Et2O, then treated with H2O/1N HCl and extracted several times with Et2O. All organic layers were combined, washed with brine, dried over MgSO4 and concentrated in vacuo. The crude product was chromatographed (500 g silica gel +0.5% Et3N, Hex/Et2O 2:3) to afford after crystallization from Hex/Et2O 5.66 g 31.1 mmol, 62%) of a colorless, fluffy powder (m.p. 43.5-45° C.). 1H NMR (400 MHz, CDCl3) d 7.44 (d, J=8.1, 2 H), 7.36 (d, J=m8.1, 2 H), 5.39 (s, 1 H), 4.69 (d, J=5.9, 2 H), 3.32 (s, 6 H), 1.92 (t, J=5.9, 1 H); 13C NMR (100 MHz, CDCl3) d 141.10, 137.31, 126.89, 126.73, 102.86, 64.91, 52.61; HRMS calcd for C10H14O3Na =(M+Na)+ 205.0841, found 205.0847.

reactant | 4-carboxybenzaldehyde | 50 mmol, 7.51 g | C(=O)(O)C1=CC=C(C=O)C=C1 | C8H6O3
reactant | 2,2-dimethoxypropane | 65 mmol, 8 ml | COC(C)(C)OC | C5H12O2
reactant | p-TsOH.H2O | 1 mmol, 190 mg | CC=1C=CC(=CC1)S(=O)(=O)O.O
reactant | LiAlH4 | 45 mmol, 1.71 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | Et2O | 31.1 mmol, 5.66 g | CCOCC | C4H10O
solvent | MeOH | 40 ml | CO | CH4O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 4-Hydroxymethylbenzaldehyd dimethylacetal | COC(C1=CC=C(C=C1)CO)OC | C10H14O3
